US06506901B2
Step C: (2R)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}butanedioic Acid Dibenzyl Ester
A solution of N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methane-sulfonamide (0.104 g, 0.421 mmol), (2R)-2-{[4-(4-(formyl)piperidin-1-yl)benzoyl]-amino}butanedioic acid dibenzyl ester (0.4 mmol) and glacial acetic acid (0.024 g, 0.421 mmol) in 5 mL methanol was stirred for 1 hour over 4A molecular sieves. In one portion sodium cyanoborohydride (0.028 g, 0.421 mmol) was added and the mixture stirred overnight at ambient temperature. The sieves were filtered and the filtrate was preabsorbed on silica gel. The solids were purified by flash chromatography (CH2Cl2—CH3OH, 19:1). to give the product (0.110 g).

reactant | N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methane-sulfonamide | 0.421 mmol, 0.104 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | (2R)-2-{[4-(4-(formyl)piperidin-1-yl)benzoyl]-amino}butanedioic acid dibenzyl ester | 0.4 mmol | C(C1=CC=CC=C1)OC([C@@H](CC(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)N1CCC(CC1)C=O)=O)=O | C31H32N2O6
reactant | acetic acid | 0.421 mmol, 0.024 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.421 mmol, 0.028 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (2R)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}butanedioic Acid Dibenzyl Ester | 0.110 g | C(C1=CC=CC=C1)OC([C@@H](CC(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)N1CCC(CC1)CNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)=O)=O | C40H46N4O9S
